US04096331
3-(2-Dimethylaminoethoxy)pyrrolidine.
A solution of 10.0 g. (0.0402 mole) of 1-benzyl-3-(2-dimethylaminoethoxy)pyrrolidine in ethanol containing 10% palladium on charcoal was shaken at 60° C. in about three atmospheres of hydrogen until the theoretical amount of hydrogen was used. The cooled filtered solution was concentrated at reduced pressure to give a quantitative yield of oily product. The structure was confirmed by its nuclear magnetic resonance spectrum.

reactant | 1-benzyl-3-(2-dimethylaminoethoxy)pyrrolidine | 0.0402 mole | C(C1=CC=CC=C1)N1CC(CC1)OCCN(C)C | C15H24N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-Dimethylaminoethoxy)pyrrolidine | quantitative yield | CN(CCOC1CNCC1)C | C8H18N2O
